US09388147B2
Methyl 3-bromo-5-(trifluoromethoxy)benzoate
Prepared from 3-bromo-5-(trifluoromethoxy)benzoic acid according to the procedure for methyl 3-bromo-5-hydroxybenzoate. LCMS-ESI (m/z) calculated for C9H6BrF3O3: 299.0; no m/z observed, tR=4.08 min. 1H NMR (400 MHz, CDCl3) δ 8.12 (dd, J=3.9, 2.4 Hz, 1H), 7.83 (dt, J=2.2, 1.2 Hz, 1H), 7.57 (ddd, J=2.4, 1.8, 0.9 Hz, 1H), 3.99-3.87 (m, 3H).

reactant | 3-bromo-5-(trifluoromethoxy)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)OC(F)(F)F | C8H4BrF3O3
reactant | methyl 3-bromo-5-hydroxybenzoate | BrC=1C=C(C(=O)OC)C=C(C1)O | C8H7BrO3
product | Methyl 3-bromo-5-(trifluoromethoxy)benzoate | BrC=1C=C(C(=O)OC)C=C(C1)OC(F)(F)F | C9H6BrF3O3
